US07214673B2
(S)-2-Methyl-10-[3-(2-thiophen-3-yl-ethyl)-piperazin-1-yl]-4H-3-thia-4,9-diaza-benzo[f]azulene
Add methyl trifluoromethanesulfonate (241 μL, 2.13 mmol) to a 0° C. slurry of 2-methyl-4,9-dihydro-3-thia-4,9-diaza-benzo[f]azulene-10-thione (437 mg, 1.77 mmol) in dichloromethane (5 mL). Stir 2 h at 0° C. then warm to ambient temperature and stir 16 h. Concentrate the reaction to an orange powder. Add a 6:1 mixture of (S)-2-(2-thiophen-3-yl-ethyl)-piperazine and (S)-2-(2-thiophen-2-yl-ethyl)-piperazine (346 mg, 1.76 mmol) and pyridine (5 mL). Heat to reflux for 7.5 h and stir at ambient temperature for 18 h. Concentrate the reaction, dissolve the residue in methanol-dichloromethane, apply to a SCX column. Wash the column with methanol-dichloromethane to remove impurities then elute the product with 2N ammonia in methanol-methanol (10%). Concentrate and purify by silica gel chromatography using 2N ammonia in methanol-methylene chloride (1%–4%) as the eluent to give 333 mg of a brown foam. Purify by radial silica gel chromatography using a 4 mm plate and 1% isopropylamine in tetrahydrofuran-hexanes (10%–20%) as the eluent to give 218 mg (30%) of the title compound: mass spectrum (ion spray): m/z=409 (M+1), 407 (M −1). HR-MS calculated for C22H25N4S2: 409.1521. Found 409.1540. 1H NMR (DMSO-d6): δ 7.56 (s, 1H), 7.43 (dd, 1H), 7.13 (s, 1H), 6.99 (d, 1H), 6.87–6.74 (m, 3H), 6.67 (d, 1H), 6.31 (s, 1H), 3.88 (br d, 1H), 3.76 (br d, 1H), 2.88 (br d, 1H), 2.80–2.53 (m, 5H), 2.45–2.38 (m, 1H), 2.27 (s, 3H), 1.61 (dd, 2H).

reactant | methyl trifluoromethanesulfonate | 2.13 mmol, 241 μL | FC(S(=O)(=O)OC)(F)F | C2H3F3O3S
reactant | 2-methyl-4,9-dihydro-3-thia-4,9-diaza-benzo[f]azulene-10-thione | 1.77 mmol, 437 mg | CC1=CC=2C(NC3=C(NC2S1)C=CC=C3)=S | C12H10N2S2
reactant | (S)-2-(2-thiophen-3-yl-ethyl)-piperazine | S1C=C(C=C1)CC[C@@H]1NCCNC1 | C10H16N2S
reactant | (S)-2-(2-thiophen-2-yl-ethyl)-piperazine | 1.76 mmol, 346 mg | S1C(=CC=C1)CC[C@@H]1NCCNC1 | C10H16N2S
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | methanol dichloromethane | CO.ClCCl
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | (S)-2-Methyl-10-[3-(2-thiophen-3-yl-ethyl)-piperazin-1-yl]-4H-3-thia-4,9-diaza-benzo[f]azulene | 333 mg | CC1=CC=2C(=NC3=C(NC2S1)C=CC=C3)N3C[C@@H](NCC3)CCC3=CSC=C3 | C22H24N4S2
